US05919793
Bromoethylmethyl ether (105.7 g) was added to a stirred suspension of hydroquinone monobenzylether and unhydrous potassium carbonate (84.5 g) in N,N-dimethylformamide (250 ml). The reaction mixture was heated at 90° C. for 18 hours. The reaction mixture was allowed to cool to ambient temperature and the mixture filtered. The filtrate was dissolved in water (750 ml) and the aqueous mixture was extracted with ethyl acetate (5×150 ml). The ethyl acetate extracts were combined, washed with water (3×100 mls), brine (200 mls), dried (MgSO4) and evaporated to give 1-(benzyloxy)-4-(2-methoxyethoxy)benzene (102.4 g) as a solid; NMR: 3.3(3H,s), 3.61(2H,m), 4.0(2H,m), 5.02(2H,s), 6.9(4H,m) and 7.4(5H,m) and m/z 259(M+H).

reactant | Bromoethylmethyl ether | 105.7 g | BrCCOC | C3H7BrO
reactant | hydroquinone monobenzylether | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | potassium carbonate | 84.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 1-(benzyloxy)-4-(2-methoxyethoxy)benzene | 102.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCOC | C16H18O3
